US05114945
(i) 2-(Pyrrolidinylmethyl)-3-piperidinol
A mixture of 2-(pyrrolidinylmethyl)-3-pyridinol (21.0 g) and platinum oxide (1.0 g) in glacial acetic acid (120 ml) was hydrogenated a 70 psi and room temperature for 20 h. Further platinum oxide (1.0 g) was then added and hydrogenation continued at 70 psi for a further 24 h. The reaction mixture was filtered, the combined filtrates were concentrated in vacuo and the residue was dissolved in water (200 ml). This solution was acidified to pH1 with 5M hydrochloric acid before washing with dichloromethane (2×70 ml). The aqueous layer was then basified (pH14) with 5M aqueous sodium hydroxide before extracting with dichloromethane (3×70 ml). The combined extracts were washed with 2M aqueous sodium hydroxide (50 ml) and water (50 ml), dried and concentrated in vacuo to give an oil. This crude product was distilled at reduced pressure (Kughelrohr oven, 140°, 0.8 mm Hg) to give the title compound as a waxy solid, (6.17 g) m.p. 45°-50°.

reactant | 2-(pyrrolidinylmethyl)-3-pyridinol | 21.0 g | N1(CCCC1)CC1=NC=CC=C1O | C10H14N2O
solvent | acetic acid | 120 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 1.0 g | [Pt]=O
catalyst | platinum oxide | 1.0 g | [Pt]=O
product | 2-(Pyrrolidinylmethyl)-3-piperidinol | N1(CCCC1)CC1NCCCC1O | C10H20N2O
